US08895547B2
[5-(3-Bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]cyclohexylamine
A solution of 1.00 g of 1-(3-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide and 0.483 g of cyclohexyl isothiocyanate in 7 ml of NMP was admixed with 1.62 ml of a 2 N solution of sodium bis(trimethylsilyl)amide. After stirring for 20 minutes, 578 mg of N-bromosuccinimide were added and the mixture was stirred at room temperature for a further 60 minutes. The reaction solution was admixed with 150 ml of water and extracted twice with 150 ml of ethyl acetate. The combined organic phases were washed with saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated by rotary evaporation. The residue was purified in a purification laboratory by means of preparative HPLC, and the product-containing fractions were lyophilized. This gave the product (411 mg) with a molecular weight of 415.3 g/mol (C17H23BrN2O3S); MS (ESI): m/e=416 (M+H+).

reactant | 1-(3-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 1.00 g | BrC=1C=C(C=CC1)C(C(C)(C)O)S(=O)(=O)N | C10H14BrNO3S
reactant | cyclohexyl isothiocyanate | 0.483 g | C1(CCCCC1)N=C=S | C7H11NS
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | N-bromosuccinimide | 578 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | NMP | 7 ml | CN1CCCC1=O | C5H9NO
solvent | water | 150 ml | O | H2O
product | [5-(3-Bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]cyclohexylamine | 411 mg | BrC=1C=C(C=CC1)C1S(N=C(OC1(C)C)NC1CCCCC1)(=O)=O | C17H23BrN2O3S
